US07011838B2
Using 3.86 g of (4-bromobenzyl)malononitrile, 25 ml of N,N-dimethylformamide, 0.72 g of sodium hydride (60% in oil), and 3.20 g of 1-bromo-3,3,3-trifluoropropane, and according to the process described in the Production Example 1, there was obtained 4.61 g of 2-(4-bromobenzyl)-2-(3,3,3-trifluoropropyl)malononitrile (the present compound (9)).

reactant | (4-bromobenzyl)malononitrile | 3.86 g | BrC1=CC=C(CC(C#N)C#N)C=C1 | C10H7BrN2
reactant | sodium hydride | 0.72 g | [H-].[Na+]
reactant | 1-bromo-3,3,3-trifluoropropane | 3.20 g | BrCCC(F)(F)F | C3H4BrF3
solvent | N,N-dimethylformamide | 25 ml | CN(C=O)C | C3H7NO
product | 2-(4-bromobenzyl)-2-(3,3,3-trifluoropropyl)malononitrile | 4.61 g, Yield: 85% | BrC1=CC=C(CC(C#N)(C#N)CCC(F)(F)F)C=C1 | C13H10BrF3N2
